US08008350B2
i) 1,1′-dithiobis(2-chlorobenzene)
Hexamethyldisilazane (4.4 ml) was added to a stirred solution of 2-chlorobenzenethiol (2.0 ml) and DMSO (3.7 ml) in dry acetonitrile at room temperature. After 2 h the white precipitate was filtered and washed (cold acetonitrile) to give the sub-title compound as a white solid (2.27 g).

reactant | Hexamethyldisilazane | 4.4 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 2-chlorobenzenethiol | 2.0 ml | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | DMSO | 3.7 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,1′-dithiobis(2-chlorobenzene) | 2.27 g | ClC1=C(C=CC=C1)SSC1=C(C=CC=C1)Cl | C12H8Cl2S2
